US04933355
Ethyl 2-morpholinothiazole-4-carboxylate
The reaction described in Preparation 26 was repeated, but using 1.4 g of morpholine, 3 g of ethyl 2-chlorothiazole-4-carboxylate. 3 g of triethylamine and 12 ml of dimethylformamide, giving the title compound as colorless needles.

reactant | morpholine | 1.4 g | N1CCOCC1 | C4H9NO
reactant | ethyl 2-chlorothiazole-4-carboxylate | 3 g | ClC=1SC=C(N1)C(=O)OCC | C6H6ClNO2S
reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-morpholinothiazole-4-carboxylate | O1CCN(CC1)C=1SC=C(N1)C(=O)OCC | C10H14N2O3S
